* C:\Users\RDorobantu\Desktop\MPPT_Driver.asc
V1 N001 0 24
L1 N002 N003 47µ
M1 N001 N007 N002 N002 Si7336ADP
R2 N003 0 20k tol=1 pwr=0.1
D1 0 N002 D
XU1 N004 0 0 N006 0 N007 N007 N002 N005 LTC7001
C2 N005 N002 0.1µ V=50 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM155R71H104KE02" type="X7R"
V2 N004 0 5
V3 N006 0 PULSE(0 5 0 0 0 1.5u 4.4u)
C1 N003 0 22µ
.model D D
.lib C:\Users\RDorobantu\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\RDorobantu\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.lib LTC7001.sub
.backanno
.end
